US09334278B2
A mixture of 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (120 mg, 281 μmol), 2-(methylsulfonyl)pyridin-4-amine (55 mg, 319 μmol), xantphos (48.7 mg, 84.2 μmol), Pd2(dba)3 (25.7 mg, 28.1 μmol) and cesium carbonate (183 mg, 562 μmol) in dioxane (2 mL) was heated in a microwave at 150° C. for 20 min. The mixture was cooled then filtered through a pad of celite. The filtrate was concentrated in vacuo then purified by chromatography (silica, 35-70% ethyl acetate in hexanes) to give N-tert-butyl-2-(2-(methylsulfonyl)pyridin-4-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (127 mg, 245 μmol, 87%) as a light yellow gum. (EI/CI) m/z: 519.1 [M+H].

reactant | 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 281 μmol, 120 mg | BrC=1N=C2C(=NC1)N(C=C2C(=O)NC(C)(C)C)COCC[Si](C)(C)C | C17H27BrN4O2Si
reactant | 2-(methylsulfonyl)pyridin-4-amine | 319 μmol, 55 mg | CS(=O)(=O)C1=NC=CC(=C1)N | C6H8N2O2S
reactant | xantphos | 84.2 μmol, 48.7 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 562 μmol, 183 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 28.1 μmol, 25.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-tert-butyl-2-(2-(methylsulfonyl)pyridin-4-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 245 μmol, 127 mg, 87% | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=CC(=NC=C2)S(=O)(=O)C)COCC[Si](C)(C)C | C23H34N6O4SSi
